US04668686
Sodium nitrite (36.5 g, 0.53 mole) in water (125 ml) was added dropwise to a stirred mixture of 2,3-dimethyl-6-nitrobenzylamine (63.5 g, 0.35 mole), acetic acid (165 mL) and water (165 mL) cooled in an ice bath. After completing the addition, the mixture was stirred for 10 minutes, warmed to room temperature and stirred to a further 10 minutes before being diluted with water (1000 mL). The mixture was extracted with dichloromethane (3×500 mL), the combined extracts dried over magnesium sulfate and concentrated to afford an oil which was dissolved in methanol (400 mL). 1N Sodium hydroxide solution (400 mL) was added dropwise over 20 minutes. The methanol was removed under reduced pressure, and the residue diluted with water (1200 mL) and extracted with dichloromethane (3×700 mL). The combined extracts were dried over magnesium sulfate and the solvent evaporated to afford 2,3-dimethyl-6-nitrobenzyl alcohol (59.3 g, 93%) as brown solid used in Step 3 below without further purification. An analytical sample was prepared by crystallization from hexane/diethyl ether, m.p. 48°-51° C.

reactant | Sodium nitrite | 0.53 mole, 36.5 g | N(=O)[O-].[Na+]
reactant | 2,3-dimethyl-6-nitrobenzylamine | 0.35 mole, 63.5 g | CC1=C(CN)C(=CC=C1C)[N+](=O)[O-] | C9H12N2O2
reactant | acetic acid | 165 mL | C(C)(=O)O | C2H4O2
reactant | Sodium hydroxide | 1N, 400 mL | [OH-].[Na+]
solvent | water | 125 ml | O | H2O
solvent | water | 1000 mL | O | H2O
solvent | methanol | 400 mL | CO | CH4O
solvent | water | 165 mL | O | H2O
product | 2,3-dimethyl-6-nitrobenzyl alcohol | 59.3 g, 93% | CC1=C(CO)C(=CC=C1C)[N+](=O)[O-] | C9H11NO3
